US08110573B2
A mixture of 6-methyl-imidazo[2.1-b]thiazole-5-carboxylic acid (Bionet) (61 mg, 0.33 mmol), 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (100 mg, 0.33 mmol), EDC (77 mg 0.39 mmol) and HOAt (54 mg, 0.39 mmol) was stirred in DMF (3 ml) at 80° C. for 1 h then at ambient temperature for 20 h. The mixture was reduced in vacuo and the residue was partitioned between EtOAc and saturated NaHCO. The organic portion was washed with brine, dried (MgSO4) and reduced in vacuo. The residue was purified by preparative LC/MS to give 6-methyl-imidazo[2.1-b]thiazole-5-carboxylic acid [3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-amide (29 mg). (LC/MS Basic: Rt 2.56 [M+H]+ 463).

reactant | 6-methyl-imidazo[2.1-b]thiazole-5-carboxylic acid | 0.33 mmol, 61 mg | CC=1N=C2SC=CN2C1C(=O)O | C7H6N2O2S
reactant | 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.33 mmol, 100 mg | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1 | C15H18N6O
reactant | EDC | 0.39 mmol, 77 mg
reactant | HOAt | 0.39 mmol, 54 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-methyl-imidazo[2.1-b]thiazole-5-carboxylic acid [3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-amide | 29 mg | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2NC(=O)C2=C(N=C3SC=CN32)C)C=C1 | C22H22N8O2S
